US05219856
PART A: Preparation of 5-Methoxycarbonyl-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazol-4-carboxaldehyde
A suspension of 10.00 g (14.82 mmole) of 5-methoxycarbonyl-4-hydroxy-methyl-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazole (Example 101, Part A) in 200 mL THF was added to a stirring slurry of 12.88 g (148.2 mmole) of MnO2 at room temperature. The mixture was stirred at room temperature for 2 days. 3.22 g (37.0 mmole) of additional MnO2 was added to the mixture and stirred at room temperature for 5 hours after which TLC (ethyl acetate) showed no starting material. The product was filtered through Celite™, and the cake was washed with ethyl acetate and methylene chloride; the filtrate was evaporated under reduced pressure to give 8.10 g (81%) of the title compound as a light-yellow-colored solid. 1H NMR (300 MHz, CDCl3): δ0.89 (t, J=7.3 Hz, 3H); 1.74 (m, 2H); 2.58 (t, J=7.7 Hz, 2H); 3.81 (s 3H); 5.49 (s, 2H); 6.74-7.92 (m, 23H); 10.38 (s, 1H). MS (NH3 --DCI): m/z 673 (M+H, 10%); 617 (M+H-N4, 100%); 243 (Tr, 20%). Calculated mass for C42H37N6O3 (M+H): 673.292714; found: 673.292470.

reactant | 5-methoxycarbonyl-4-hydroxy-methyl-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazole | 14.82 mmole, 10.00 g | COC(=O)C1=C(NC(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(CCC)C)O | C42H40N6O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 148.2 mmole, 12.88 g | O=[Mn]=O
catalyst | MnO2 | 37.0 mmole, 3.22 g | O=[Mn]=O
product | 5-Methoxycarbonyl-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazol-4-carboxaldehyde | 8.10 g, 81% | COC(=O)C1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC)C=O | C42H36N6O3
